US06743608B2
(2S)-2-Ethoxy-3-(4-hydroxyphenyl)-propanoic acid/Isopropyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)-propanoate
To isopropyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)-propanoate (0.25 ml of a solution containing 2 mg/ml in phosphate buffer 0.1 M pH 7 and acetonitrile 10% (v/v)) was added the enzyme (amount indicated below) diluted in phosphate buffer 0.1M pH 7 (buffer volume such as total reaction mixture volume was 0.5 ml). The reaction mixture was shaken at room temperature and analysed at different times. The reaction mixture was analysed by the gradient HPLC method 1, and the chiral CE method 2.

reactant | isopropyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)-propanoate | C(C)OC(C(=O)OC(C)C)CC1=CC=C(C=C1)O | C14H20O4
reactant | acetonitrile | C(C)#N | C2H3N
solvent | phosphate | 0.1 M, pH 7 | P(=O)([O-])([O-])[O-]
solvent | phosphate | 0.1M, 0.5 ml, pH 7 | P(=O)([O-])([O-])[O-]
product | (2S)-2-Ethoxy-3-(4-hydroxyphenyl)-propanoic acid Isopropyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)-propanoate | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OC(C)C)CC1=CC=C(C=C1)O | InChI=1S/C14H20O4.C11H14O4/c1-4-17-13(14(16)18-10(2)3)9-11-5-7-12(15)8-6-11;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h5-8,10,13,15H,4,9H2,1-3H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t13-;10-/m10/s1
